US07279487B2
Step 2: Preparation of benzyl 2-[methyl(methylsulfonyl)amino]ethylcarbamate
A solution of benzyl 2-(methylamino)ethylcarbamate (0.05 g, 0.24 mmol) in CH2Cl2 (5 mL was cooled to 6° C. and treated with triethylamine (0.1 mL, 0.72 mmol) and methanesulfonyl chloride (0.02 mL, 0.24 mmol). The reaction was warmed to room temperature and stirred overnight. The reaction was washed with 10% KHSO4, the organic layer was dried over Na2SO4, filtered and evaporated to give the product.

reactant | benzyl 2-(methylamino)ethylcarbamate | 0.24 mmol, 0.05 g | CNCCNC(OCC1=CC=CC=C1)=O | C11H16N2O2
reactant | triethylamine | 0.72 mmol, 0.1 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.24 mmol, 0.02 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | benzyl 2-[methyl(methylsulfonyl)amino]ethylcarbamate | CN(CCNC(OCC1=CC=CC=C1)=O)S(=O)(=O)C | C12H18N2O4S
